US07932272B2
3-Benzyloxybenzylamine
Lastly, (3-benzyloxybenzyl)iminodicarboxylic acid di-tert-butyl ester (691 mg, 1.67 mmol) was cooled on an ice bath, trifluoroacetic acid (3 mL) was added, and the solution was stirred for 30 minutes. An aqueous solution of saturated sodium bicarbonate was added to the reaction solution, which was then extracted with ethyl acetate and dried over anhydrous magnesium sulfate. The solvent was evaporated, and the title compound (292 mg, 82%) was obtained as a white waxy solid. This was used in the next reaction without further purification.

reactant | (3-benzyloxybenzyl)iminodicarboxylic acid di-tert-butyl ester | 1.67 mmol, 691 mg | C(C)(C)(C)OC(=O)N(C(=O)OC(C)(C)C)CC1=CC(=CC=C1)OCC1=CC=CC=C1 | C24H31NO5
reactant | trifluoroacetic acid | 3 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 3-Benzyloxybenzylamine | 292 mg, 82% | C(C1=CC=CC=C1)OC=1C=C(CN)C=CC1 | C14H15NO
